US05708008
5-(1-naphthoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole hydrochloride
To a suspension of 1.2 gm (5.2 mMol) 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole in 50 mL tetrahydrofuran were added 0.946 mL (6.3 mMol) 1-naphthoyl chloride dropwise. After 18 hours the reaction mixture was filtered. The recovered filtrate was dissolved in 10 mL dimethylformamide to which were added 1.5 mL (10.5 mMol) triethylamine followed by 0.8 mL (5.3 mMol) 1-naphthoyl chloride. After 18 hours the reaction mixture was partitioned between ethyl acetate and 1N sodium hydroxide. The phases were separated and the aqueous extracted again with ethyl acetate. The combined ethyl acetate extracts were then washed sequentially with 1N sodium hydroxide, water and saturated aqueous sodium chloride. The remaining organics were dried over sodium sulfate and concentrated under reduced pressure. The residue was subjected to flash chromatography, eluting with 100:10:1 dichloromethane:methanol:ammonium hydroxide. Fractions shown to contain product were combined and concentrated under reduced pressure. The residue was taken up in ethanol and treated with ethanolic hydrogen chloride. The solution was concentrated under reduced pressure and the residue crystallized from ethylacetate/ethanol to give 1.28 gm (58.2%) of the title compound as a tan powder.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole | 5.2 mMol, 1.2 gm | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | 1-naphthoyl chloride | 6.3 mMol, 0.946 mL | C1(=CC=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | triethylamine | 10.5 mMol, 1.5 mL | C(C)N(CC)CC | C6H15N
reactant | 1-naphthoyl chloride | 5.3 mMol, 0.8 mL | C1(=CC=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 5-(1-naphthoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole hydrochloride | 1.28 gm, 58.2% | Cl.C1(=CC=CC2=CC=CC=C12)C(=O)NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | InChI=1S/C25H25N3O.ClH/c1-28-13-11-18(12-14-28)23-16-26-24-10-9-19(15-22(23)24)27-25(29)21-8-4-6-17-5-2-3-7-20(17)21;/h2-10,15-16,18,26H,11-14H2,1H3,(H,27,29);1H
